US06140100
According to example 82, 1.87 g of tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)-4-morpholinecarboxylate was treated with 3.1 mL of TFA in 30 mL of CH2Cl2 for 4 h. Neutralization with 8 mL of Et3N and work-up in the usual manner gave a light yellow residue. Purification of the crude material by flash chromatography on 85 g of silica gel (8:2 hexane:EtOAc) afforded 1.35 g (91%) of (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)morpholine as a thick, transparent semi-solid.

reactant | tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)-4-morpholinecarboxylate | 1.87 g | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=CC=C1)C1CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C32H35NO4
reactant | TFA | 3.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3N | 8 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)morpholine | 1.35 g, 91% | O=C1O[C@@H]([C@@H](N[C@H]1CC1=CC(=CC=C1)C1CCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO2
